US06897208B2
2-(5-ethyl-2H-pyrazol-3-yl)-4-hydroxy-1H-benzimidazole
Starting with 100 mg of 5-ethyl-2H-pyrazole-3-carboxaldehyde, 100 mg of 2,3-diaminophenol, and 153 mg of sodium metabisulphite, in 1 ml of ethanol and 3 ml of dimethylformamide, and after purification by SPE (SCX phase, washing with methanol, extraction with 2N ammoniacal methanol) followed by a reverse-phase HPLC (5 mm, C18 phase, dimensions: 100×25 mm, flow rate 20 ml/min, elution gradient: acetonitrile/0.07% TFA-water/0.07% TFA from 5-95 to 95-5 (v/v)), and desalification by SPE (SCX phase, washing with methanol, extraction with 2N ammoniacal methanol), 16 mg of 2-(5-ethyl-2H-pyrazol-3-yl)-4-hydroxy-1H-benzimidazole are obtained in the form of a brown lacquer, the characteristics of which are as follows:

reactant | 5-ethyl-2H-pyrazole-3-carboxaldehyde | 100 mg | C(C)C=1C=C(NN1)C=O | C6H8N2O
reactant | 2,3-diaminophenol | 100 mg | NC1=C(C=CC=C1N)O | C6H8N2O
reactant | sodium metabisulphite | 153 mg | S(=O)(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | ethanol | 1 ml | C(C)O | C2H6O
product | 2-(5-ethyl-2H-pyrazol-3-yl)-4-hydroxy-1H-benzimidazole | C(C)C=1C=C(NN1)C1=NC2=C(N1)C=CC=C2O | C12H12N4O
